US05055468
11-Chloromethyl-9,10-dihydro-9,10-ethanoanthracene
Anthracene (75 gm) was combined with allyl chloride (150 gm) and benzene (375 gm) in a Parr bomb and heated to 220° C. for 13 hours. The contents were filtered and the benzene was removed on a rotary evaporator. The residue was recrystallized from ethanol to provide the product as a white solid (mp=108-111° C.).

reactant | Anthracene | 75 gm | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
reactant | allyl chloride | 150 gm | C(C=C)Cl | C3H5Cl
solvent | benzene | 375 gm | C1=CC=CC=C1 | C6H6
product | 11-Chloromethyl-9,10-dihydro-9,10-ethanoanthracene | ClCC1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C17H15Cl
